US06211197B1
Step 1 1-allyl-2-(benzyloxy)benzene
A mixture containing 2-bromocinnamic acid (250 mg, 1.10 mmol), the product of step 1 (271 mg, 1.1 equiv.), Pd(OAc)2 (8 mg, 0.03 equiv.), LiCl (47 mg, 1 equiv.), LiOAc (280 mg, 2.5 equiv.) and Bu4NCl (611 mg, 2 equiv.) in DMF (2 ml) was degassed and heated to 100 C. o.n. 0.5 N HCl was then added and the product was extracted in EtOAc, washed with 0.5 N HCl, dried over Na2SO4 and concentrated to dryness. Recrystallization from ether:hexane afforded the title product as a white solid. Yield: 251 mg, 62%.

reactant | 2-bromocinnamic acid | 1.10 mmol, 250 mg | BrC1=C(C=CC(=O)O)C=CC=C1 | C9H7BrO2
reactant | LiCl | 47 mg, 1 equiv. | [Li+].[Cl-]
reactant | LiOAc | 280 mg, 2.5 equiv. | [Li]OC(=O)C
reactant | HCl | 0.5 N | Cl | ClH
catalyst | Bu4NCl | 611 mg, 2 equiv. | [N+](CCCC)(CCCC)(CCCC)CCCC.[Cl-]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 8 mg, 0.03 equiv. | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 1-allyl-2-(benzyloxy)benzene | C(C=C)C1=C(C=CC=C1)OCC1=CC=CC=C1 | C16H16O
